US04279912
5 g of ethyl 5-chloro-8-methoxyimidazo-[1,2-a]-quinoline-2-carboxylate were suspended in 75 ml of ethanol and 75 ml of ethyl acetate and then 2.5 g of anhydrous sodium acetate and 250 mg of 5% palladium on charcoal were added. The mixture was hydrogenated at 50° C. under atmospheric pressure for 4 hours and the catalyst was filtered off. Then, the solvent was removed under vacuum and the residue was partitioned between chloroform and 2 N sodium carbonate solution. The organic solution was dried over magnesium sulfate and was reduced in volume under vacuum and ether was added to obtain pale cream crystals of ethyl 8-methoxyimidazo-[1,2-a]-quinoline-2-carboxylate melting at 152°-153° C.

reactant | ethyl 5-chloro-8-methoxyimidazo-[1,2-a]-quinoline-2-carboxylate | 5 g | ClC1=CC=2N(C3=CC(=CC=C13)OC)C=C(N2)C(=O)OCC | C15H13ClN2O3
reactant | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium acetate | 2.5 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 250 mg | [Pd] | Pd
product | ethyl 8-methoxyimidazo-[1,2-a]-quinoline-2-carboxylate | COC1=CC=C2C=CC=3N(C2=C1)C=C(N3)C(=O)OCC | C15H14N2O3
